US07700655B2
(1) 5-Chloro-2-methoxy-β-[3,5-bis(trifluoromethyl)phenyl]styrene
A solution of sodium nitrite (57 mg, 0.8 mmol) in water (1 mL) was added to a solution of 2-amino-4-chloroanisole (131 mg, 0.8 mmol) in 48% hydrogen tetrafluoroborate (0.3 mL) under ice cooling and argon atmosphere. After the mixture was stirred at 0° C. for 1 hour, a solution of 3,5-bis(trifluoromethyl)styrene (100 mg, 0.4 mmol) in methanol (3 mL) was added and the mixture was stirred at 50° C. for 1 hour. After the reaction mixture was cooled to room temperature, the residue obtained by evaporation of the solvent under reduced pressure was diluted with ethyl acetate. After the solution was washed successively with 2N hydrochloric acid, water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=5:1) to give the title compound (52.8 mg, 33.3%) as a white powder.

reactant | sodium nitrite | 0.8 mmol, 57 mg | N(=O)[O-].[Na+]
reactant | 2-amino-4-chloroanisole | 0.8 mmol, 131 mg | NC1=C(C=CC(=C1)Cl)OC | C7H8ClNO
reactant | 3,5-bis(trifluoromethyl)styrene | 0.4 mmol, 100 mg | FC(C=1C=C(C=C)C=C(C1)C(F)(F)F)(F)F | C10H6F6
solvent | water | 1 mL | O | H2O
solvent | hydrogen tetrafluoroborate | 0.3 mL | [H+].[B-](F)(F)(F)F
solvent | methanol | 3 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-methoxy-β-[3,5-bis(trifluoromethyl)phenyl]styrene | 52.8 mg, 33.3% | ClC=1C=CC(=C(C=CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC | C17H11ClF6O
